US07595321B2
4-[(4-Methylpiperazin-1-yl)sulfonyl]phenylboronic acid
Triisopropyl borate (0.64 mL, 2.8 mmol) was added to a solution of 1-[(4-bromophenyl)sulfonyl]-4-methylpiperazine (0.602 g, 1.9 mmol; described: in Keasling, H. H. et el. J. Med. Chem. 1965, 8, 548-550) in anhydrous tetrahydrofuran (7 mL) at −78° C. under a nitrogen atmosphere followed by dropwise addition of n-butyllithium (1.4 mL, 2.2 mmol). The resulting mixture was stirred at −78° C. for 2 h and at room temperature for another 16 h. Water (2.0 mL) was added and the mixture stirred for 30 min and evaporated to dryness. The residue was pre-adsorbed onto silica and purified by column chromatography on silica using methylene chloride/methanol, (9:1 to 1:9), as the eluent. The product was re-crystallized from water to give 311 mg (58% yield) of the title compound as white crystals: mp 215-218° C.; 1H NMR (DMSO-d6, 400 MHz) δ 8.47 (br s, 2H), 8.05 (d, J=8 Hz, 2H), 7.73 (d, J=8 Hz, 2H), 3.77 (m, 2H), 3.40 (m, 2H), 3.13 (m, 2H), 2.71 (s, 3H), 2.65 (m, 2H); 13C NMR (DMSO-d6, 100 MHz) δ 133.7, 133.3, 124.7, 49.8, 41.6, 41.4; MS (TSP) m/z 285 (M++1).

reactant | Triisopropyl borate | 2.8 mmol, 0.64 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | 1-[(4-bromophenyl)sulfonyl]-4-methylpiperazine | 1.9 mmol, 0.602 g | BrC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C | C11H15BrN2O2S
reactant | n-butyllithium | 2.2 mmol, 1.4 mL | C(CCC)[Li]
reactant | Water | 2.0 mL | O | H2O
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
product | 4-[(4-Methylpiperazin-1-yl)sulfonyl]phenylboronic acid | 311 mg, 58% yield | CN1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)B(O)O | C11H17BN2O4S
